US05455273
4-(4-Hydroxymethylphenyl)cyclohexanone
3.5 g of this product in 30 ml of pyridine are combined with 2.2 ml of thionylchloride, whilst cooling with ice. The resulting oil (2.7 g), which is a mixture of two substances, is hydrogenated in a mixture of 40 ml of ethyl acetate and 20 ml of methanol in the presence of 1.5 g of palladium/calcium carbonate at ambient temperature under a hydrogen pressure of 5 bar. The resulting oil (2.4 g) is refluxed overnight in 40 ml of acetone and 10 ml of water with 0.2 g of pyridinium-p-toluenesulphonate. The crude product is purified by column chromatography (silica gel, ethyl acetate/petroleum ether=1:1, v:v). 1.0 g of the title compound is obtained, melting point 58°-60° C.

reactant | thionylchloride | 2.2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | water | 10 ml | O | H2O
reactant | pyridinium p-toluenesulphonate | 0.2 g | [NH+]1=CC=CC=C1.C1(=CC=C(C=C1)S(=O)(=O)[O-])C
reactant | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 20 ml | CO | CH4O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
catalyst | palladium/calcium carbonate | 1.5 g | [Pd] | Pd
product | 4-(4-Hydroxymethylphenyl)cyclohexanone | 1.0 g | OCC1=CC=C(C=C1)C1CCC(CC1)=O | C13H16O2
